US08114902B2
2-(4-bromo-2-chlorophenyl)ethanol
4-Bromo-2-chlorophenylacetic acid methyl ester (259 g) of Reference Example 16 was dissolved in ethanol (1400 mL) and water (355 mL), calcium chloride (107 g) was added at 7° C., and the mixture was stirred for 30 min. To the reaction mixture was added sodium borohydride (73 g) by portions so that the inside temperature would not exceed 15° C. After stirring at 7° C. for 1 hr, the mixture was stirred at room temperature for 1 hr. 0.1M Hydrochloric acid (4257 mL) was added dropwise to the reaction mixture, and the reaction solvent was evaporated under reduced pressure. 0.1M Hydrochloric acid (4257 mL) was added dropwise to the residue, and 1M hydrochloric acid (3000 mL) was further added dropwise. After partitioning and extraction with ethyl acetate, the organic layer was washed with 25% brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give the title compound (229 g) as a brown oil.

reactant | 4-Bromo-2-chlorophenylacetic acid methyl ester | 259 g | COC(CC1=C(C=C(C=C1)Br)Cl)=O | C9H8BrClO2
reactant | calcium chloride | 107 g | [Cl-].[Ca+2].[Cl-]
reactant | sodium borohydride | 73 g | [BH4-].[Na+]
reactant | Hydrochloric acid | 0.1M, 4257 mL | Cl | ClH
solvent | ethanol | 1400 mL | C(C)O | C2H6O
solvent | water | 355 mL | O | H2O
product | 2-(4-bromo-2-chlorophenyl)ethanol | 229 g | BrC1=CC(=C(C=C1)CCO)Cl | C8H8BrClO
